US06110914
(R)-(-)-5'-(2-(4-Pyridyl)ethenyl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
(R)-(-)-5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (295 mg, 1 mmol),4-vinylpyridine (0.135 mL, 1.25 mmol), palladium(II)acetate (7.2 mg,0.032 mmol), tri-o-tolylphosphine (38.7 mg, 0.127 mmol), and triethylamine (0.5 mL, 3.6 mmol) in anhydrous acetonitrile (0.5 mL) were combined in a heavy-walled threaded glass tube containing a magnetic stir bar, purged with argon and sealed with a Teflon plug and FETFE O-ring. The mixture was stirred and heated at 100 to 105° C. for 48 hours, cooled to room temperature, dissolved in chloroform (25 mL), washed with saturated aqueous sodium carbonate (2 mL), dried (MgSO4), and evaporated under reduced pressure. Purification by flash chromatography through silica gel (eluting with ammoniated chloroform/methanol, 95:5), followed by recrystallization from acetone afforded the title compound (230 mg, 0.72 mmol, 72%): electrospray MS (m/z, relative intensity) 320 ([MH]+, 100).

reactant | (R)-(-)-5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 1 mmol, 295 mg | BrC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | 4-vinylpyridine | 1.25 mmol, 0.135 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | tri-o-tolylphosphine | 0.127 mmol, 38.7 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
catalyst | palladium(II)acetate | 0.032 mmol, 7.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-(-)-5'-(2-(4-Pyridyl)ethenyl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.72 mmol, 230 mg, 72% | N1=CC=C(C=C1)C=CC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C20H21N3O
